US08119686B2
To a solution of 2,6-di-t-butyl-4-mercaptophenol (600 mg, 1.04 mmol) in methanol (10 mL) was added cyclopentanone (1.5 mL) and a catalytic amount of concentrated hydrochloric acid. The mixture was heated and stirred at 60° C. overnight. The solvent was distilled off from the reaction mixture, and the resulting residue was purified by a flash column chromatography (filler: manufactured by Kanto Kagaku, K.K., 60Nmesh40-100, developing solvent:n-hexane/ethyl acetate (volume ratio)=1/0 to 100/1) to give bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclopentane (yield 485 mg and 67%).

reactant | 2,6-di-t-butyl-4-mercaptophenol | 1.04 mmol, 600 mg | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | cyclopentanone | 1.5 mL | C1(CCCC1)=O | C5H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | bis(3,5-di-t-butyl-4-hydroxyphenylthio)cyclopentane | yield 485 mg, 67% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1(CCCC1)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C33H50O2S2
